US04361565
N-[4-(1-Piperazinyl)butyl]-3,3-dimethylglutarimide (IIc)
A mixture of N-(4-bromobutyl)-3,3-dimethylglutarimide (20.0 g; 0.07 mole [prepared from 3,3-dimethylglutarimide using the method of Example 2]); piperazine (31.0 g; 0.36 mole); K2CO3 (29.8 g; 0.22 mole); and KI (0.1 g) was refluxed in 250 mL acetonitrile for 18 hr. The mixture was filtered, concentrated and the unreacted piperazine removed by vacuum sublimation. The residual material was distilled to yield 17.2 g (85%) product, b.p. 170°-178° C. at 0.01 mm.

reactant | N-(4-bromobutyl)-3,3-dimethylglutarimide | BrCCCCN1C(CC(CC1=O)(C)C)=O | C11H18BrNO2
reactant | 3,3-dimethylglutarimide | CC1(CC(=O)NC(C1)=O)C | C7H11NO2
reactant | piperazine | 0.36 mole, 31.0 g | N1CCNCC1 | C4H10N2
reactant | K2CO3 | 0.22 mole, 29.8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
product | N-[4-(1-Piperazinyl)butyl]-3,3-dimethylglutarimide | 17.2 g, 85% | N1(CCNCC1)CCCCN1C(CC(CC1=O)(C)C)=O | C15H27N3O2
